US07956142B2
A 2 litter reactor was charged with 151 g (0.67 mol) of 4-bromo-3,3,4,4-tetrafluorobutan-1-ol, 600 ml of acetonitrile, 600 ml of water, 112 g (1.33 mol/2.0 equivalent)) of sodium hydrogencarbonate, and 235 g (1.35 mol/2.0 equivalent) of sodium dithionite in a nitrogen stream. The mixture was stirred at room temperature for 12 hours. The reaction solution was extracted four times with 500 ml of acetonitrile. The solvent was evaporated from the resulting organic layer to obtain 120 g of the target sodium 1,1,2,2-tetrafluoro-4-hydroxybutane-1-sulfinate. The purity of the product was 80% and the yield was 77%.

reactant | 4-bromo-3,3,4,4-tetrafluorobutan-1-ol | 0.67 mol, 151 g | BrC(C(CCO)(F)F)(F)F | C4H5BrF4O
reactant | acetonitrile | 600 ml | C(C)#N | C2H3N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium dithionite | 1.35 mol, 235 g, 2.0 equivalent | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 600 ml | O | H2O
product | sodium 1,1,2,2-tetrafluoro-4-hydroxybutane-1-sulfinate | yield was 77% | FC(C(CCO)(F)F)(S(=O)[O-])F.[Na+] | InChI=1S/C4H6F4O3S.Na/c5-3(6,1-2-9)4(7,8)12(10)11;/h9H,1-2H2,(H,10,11);/q;+1/p-1
